US05015418
A. Dihexadecyl dl-malate
1-Hexadecanol (87.4 g, 0.36 mole), dl-malic acid (20.1 g, 0.15 mole), methanol (600 ml), methane sulfonic acid (15 drops) and several "Chemfluor" boiling chips were placed in a 1000-ml round-bottomed flask. The mixture was refluxed for 16 hours. Most of the methanol was stripped from the mixture at a pressure of about 250 mm Hg. Stripping was then continued at 5 mm Hg and 80° C. for 6 hours. Final weight was 104.41 g. TLC indicated the composition was about 5:3:2 dihexadecyl ester: methyl hexadecyl ester: hexadecanol. Hexane (500 ml) was added and warmed to dissolve all solids. On slow cooling to about 22° C., a first crystalline crop of 38.91 g was obtained after filtration. By further cooling to about 17° C., a second crystalline crop of 27.21 g was obtained. Residuals of 37.81 g were reserved for recycle. Both crystal crops contained considerable impurity; the second crop, about 50%. Recrystallization from hexane gave material which migrated as a single spot during TLC (80:18:2:2 hexane: ethyl acetate:1-butanol: formic acid irrigant, silica gel plates). This recrystallized product melted at 61.4°-62.7° C.

reactant | 1-Hexadecanol | 0.36 mole, 87.4 g | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | dl-malic acid | 0.15 mole, 20.1 g | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | methanol | 600 ml | CO | CH4O
reactant | Hexane | 500 ml | CCCCCC | C6H14
catalyst | methane sulfonic acid | 15 drops | CS(=O)(=O)O | CH4O3S
solvent | formic acid | C(=O)O | CH2O2
solvent | 1-butanol | C(CCC)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Dihexadecyl dl-malate | C(C(O)CC(=O)OCCCCCCCCCCCCCCCC)(=O)OCCCCCCCCCCCCCCCC | C36H70O5
